US07074787B2
1-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-5-methyl-pyrrolidin-2-one
In a Schlenk tube (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine (0.95 g), NaOtBu (0.29 g), dppf (0.1 g), Pd(OAc)2 (0.01 g) and 4-methylpyrrolidin-2one (0.2 g) are added: Three consecutive cycles of vacuum/argon are applied. Thereafter, 10 ml of degassed dioxane is added and the solution is heated to 120° C. (external temperature) for 8 hours. The solvent is removed under vacuum and the crude product is purified over column chromatography (eluent; EE/MeOH=9/1) yielding the title compound, m.p. 162–164° C.

reactant | (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine | 0.95 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C15H10Cl2N4
reactant | NaOtBu | 0.29 g | CC(C)(C)[O-].[Na+]
reactant | 4-methylpyrrolidin-2one | 0.2 g | CC1CC(NC1)=O | C5H9NO
catalyst | dppf | 0.1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd(OAc)2 | 0.01 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-5-methyl-pyrrolidin-2-one | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1C(CCC1C)=O | C20H18ClN5O
